US04696930
A solution of 1.7 g of 2,3-dihydro-1,3-dioxo-1H-isoindole-alpha-methyl-acetyl chloride in 20 ml of dry dichloromethane was added dropwise to a solution of 2.0 g N-(2,6-dimethylphenyl)-3-pyridinehexanamine in 20 ml of dichloromethane. The reaction mixture was stirred overnight at room temperature, diluted with water and aqueous sodium hydroxide and the layers were separated. The aqueous layer was extracted with dichloromethane and the combined organic layers were washed with water, dried with potassium carbonate and concentrated. The residue was crystallized from ethyl acetate-hexane to give 2.3 g of rac.-2,3-dihydro-N-(2,6-dimethylphenyl)-alpha-methyl-1,3-dioxo-N-[6-(3-pyridinyl)hexyl]-1H-isoindole-2-acetamide, mp 113°-115° C.

reactant | 2,3-dihydro-1,3-dioxo-1H-isoindole alpha-methyl-acetyl chloride | 1.7 g | O=C1NC(C2=CC=CC=C12)=O.CCC(=O)Cl
reactant | N-(2,6-dimethylphenyl)-3-pyridinehexanamine | 2.0 g | CC1=C(C(=CC=C1)C)NCCCCCCC=1C=NC=CC1 | C19H26N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | rac.-2,3-dihydro-N-(2,6-dimethylphenyl)-alpha-methyl-1,3-dioxo-N-[6-(3-pyridinyl)hexyl]-1H-isoindole-2-acetamide | 2.3 g | CC1=C(C(=CC=C1)C)N(C(C(N1C(C2=CC=CC=C2C1=O)=O)C)=O)CCCCCCC=1C=NC=CC1 | C30H33N3O3
